US08461134B2
The reaction mixture of 2,2,2-trifluoro-N-(3-iodophenyl)acetamide (160 mg, 0.52 mmol), 3-methylenedihydrofuran-2(3H)-one (62 mg, 0.63 mmol), Pd(OAc)2 (33 mg, 0.015 mmol) and KOAc (200 mg, 2.04 mmol) in NMP (2 mL) was degassed and heated to 110° C. for 12 hrs. The mixture was extracted with EtOAc and washed with H2O, brine, dried over MgSO4, filtered, concentrated in reduced pressure to dryness, and recrystallized in MeOH to give desired intermediate (Z)-2,2,2-trifluoro-N-(3-((2-oxodihydrofuran-3(2H)-ylidene)methyl)phenyl)acetamide (120 mg). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 11.4 (s, 1H), 7.96 (s, 1H), 7.74 (dt, J=7.6, 1.6 Hz, 1H), 7.51 (7, J=7.6 Hz, 1H), 7.28 (d, J=8.4 Hz, 1H), 7.47 (dt, J=7.6, 1.6 Hz, 1H), 7.38 (t, J=2.8 Hz, 1H), 4.43 (t, J=7.2 Hz, 2H), 3.24 (dt, J=2.8, 7.2 Hz, 2H). MS (ESI) m/z=284 (M−1).

reactant | 2,2,2-trifluoro-N-(3-iodophenyl)acetamide | 0.52 mmol, 160 mg | FC(C(=O)NC1=CC(=CC=C1)I)(F)F | C8H5F3INO
reactant | 3-methylenedihydrofuran-2(3H)-one | 0.63 mmol, 62 mg | C=C1C(OCC1)=O | C5H6O2
reactant | KOAc | 2.04 mmol, 200 mg | CC(=O)[O-].[K+]
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
catalyst | Pd(OAc)2 | 0.015 mmol, 33 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (Z)-2,2,2-trifluoro-N-(3-((2-oxodihydrofuran-3(2H)-ylidene)methyl)phenyl)acetamide | 120 mg | FC(C(=O)NC1=CC(=CC=C1)\C=C\1/C(OCC1)=O)(F)F | C13H10F3NO3
